US06642256B2
Condensation of 6-(2-aminoethanoyl)-1,3-dihydroindol-2-one hydrochloride with (4-benzylpiperidin-1-yl)acetic acid, following the procedure described in Example 6, Step 6, gave 2-(4-benzyl-piperidin-1-yl)-N-[2-oxo-2-(2-oxo-2,3-dihydro-1H-indol-5-yl)ethyl]acetamide:

reactant | 6-(2-aminoethanoyl)-1,3-dihydroindol-2-one hydrochloride | Cl.NCC(=O)C1=CC=C2CC(NC2=C1)=O
reactant | (4-benzylpiperidin-1-yl)acetic acid | C(C1=CC=CC=C1)C1CCN(CC1)CC(=O)O | C14H19NO2
product | 2-(4-benzyl-piperidin-1-yl)-N-[2-oxo-2-(2-oxo-2,3-dihydro-1H-indol-5-yl)ethyl]acetamide | C(C1=CC=CC=C1)C1CCN(CC1)CC(=O)NCC(C=1C=C2CC(NC2=CC1)=O)=O | C24H27N3O3
